US05929085
To 8-nitro-3,6,11,11a-tetrahydro-2H-pyrazino[1,2-b]isoquinoline-1,4-dione (4.5 g, 17.2 mmol) in anhydrous tetrahydrofuran (100 ml) was added 1.0M borane in tetrahydrofuran (255 ml). The reaction mixture was heated at reflux for 6 h. After cooling to room temperature, the excess borane was quenched by the cautious addition of methanol (71 ml) and then 2.5N hydrochloric acid (71 ml). The mixture was then refluxed for 5 h. The reaction mixture was cooled to room temperature and concentrated to dryness under reduced pressure. The residue was dissolved in water, the solution basified with 2.5N sodium hydroxide and the product extracted into dichloromethane. The dark red solid (4.5 g) was purified by chromatography using silica gel and 5% methanol saturated with ammonia in dichloromethane to yield 8-nitro-2,3,4,6,11,11a-hexahydro-1H-pyrazino[1,2-b]isoquinoline (2.984 g), MS 234 (M+H)+.

reactant | 8-nitro-3,6,11,11a-tetrahydro-2H-pyrazino[1,2-b]isoquinoline-1,4-dione | 17.2 mmol, 4.5 g | [N+](=O)([O-])C=1C=CC=2CC3N(CC2C1)C(CNC3=O)=O | C12H11N3O4
reactant | borane | 1.0M | B | BH3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 255 ml | O1CCCC1 | C4H8O
product | 8-nitro-2,3,4,6,11,11a-hexahydro-1H-pyrazino[1,2-b]isoquinoline | 2.984 g | [N+](=O)([O-])C=1C=CC=2CC3N(CC2C1)CCNC3 | C12H15N3O2
